US05466661
Thionyl chloride (0.16 ml) was added to a suspension of imidazole (0.63 g) and methylene chloride (6 ml) under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes. Then 2-(4-chlorobenzyloxy)-N-methoxybenzamide (0.44 g) was added, and the mixture was stirred under reflux for 2 hours. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with methylene chloride (50 ml) twice, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was purified by silica gel chromatography to give 2-(4-chlorobenzyloxy)-α-(1-imidazolyl)benzaldehyde O-methyloxime (0.01 g) as colorless crystals. mp. 92.5°-93.5° C.

reactant | Thionyl chloride | 0.16 ml | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | 0.63 g | N1C=NC=C1 | C3H4N2
reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
reactant | 2-(4-chlorobenzyloxy)-N-methoxybenzamide | 0.44 g | ClC1=CC=C(COC2=C(C(=O)NOC)C=CC=C2)C=C1 | C15H14ClNO3
solvent | water | 100 ml | O | H2O
product | 2-(4-chlorobenzyloxy)-α-(1-imidazolyl)benzaldehyde O-methyloxime | 0.01 g | CON=C(C1=C(C=CC=C1)OCC1=CC=C(C=C1)Cl)N1C=NC=C1 | C18H16ClN3O2
